US05072042
4-Methoxycarbonylbenzaldehyde-N-(3,5-di-t-butylphenyl)hydrazone
3.5g (15 mmoles) of 3,5-di-t-butylphenylhydrazine and 2.6g (15 mmoles) of methyl 4-formylbenzoate were stirred for 1 hour under reflux in 150ml of a 1:1 mixture of tetrahydrofuran and ethanol. After evaporation of the solvent the residue was digested with ethanol at the boil and then cooled, filtered off in vacuo and rinsed with ethanol. After drying in vacuo at ambient temperature, there were obtained 3.2g of the above compound, m.p. 215°-220° C.

reactant | 3,5-di-t-butylphenylhydrazine | 15 mmoles, 3.5g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)NN | C14H24N2
reactant | methyl 4-formylbenzoate | 15 mmoles, 2.6g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 4-Methoxycarbonylbenzaldehyde-N-(3,5-di-t-butylphenyl)hydrazone | 3.2g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)NN=CC1=CC=C(C=C1)C(=O)OC | C23H30N2O2
